US06890935B2
3-Bromo-5-cyclopentyloxypyridine
To a mixture of 5-bromo-3-pyridinol (5.22 g, 30 mmol), toluene (180 mL), triphenylphosphine (11.8 g, 45 mmol) and cyclopentanol (4.12 mL, 45 mmol) was slowly added diethyl azodicarboxylate (7.1 mL, 45 mmol). The mixture was heated at 90° C. for 20 h, then cooled to room temperature, washed with water (3×100 mL) and then brine (100 mL), then dried (MgSO4), filtered and concentrated by rotary evaporation. The crude oil was purified by column chromatography, eluting with ethyl acetate/cyclohexane (10/90, v/v). Selected fractions containing the product were concentrated via rotary evaporation to give 6.5 g (89%) of an orange oil.

reactant | 5-bromo-3-pyridinol | 30 mmol, 5.22 g | BrC=1C=C(C=NC1)O | C5H4BrNO
reactant | triphenylphosphine | 45 mmol, 11.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclopentanol | 45 mmol, 4.12 mL | C1(CCCC1)O | C5H10O
reactant | diethyl azodicarboxylate | 45 mmol, 7.1 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 180 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Bromo-5-cyclopentyloxypyridine | 6.5 g, 89% | BrC=1C=NC=C(C1)OC1CCCC1 | C10H12BrNO
